US04202894
1.8 Ml. of 32% hydrochloric acid and subsequently 1.5 g. of 5% palladium/carbon are added to a solution of 4.5 g. of 4-[3-(p-tert.-amyl-phenyl)-2,3-dimethyl-2-propenyl]2,6-dimethylmorpholine in 125 ml. of alcohol and the mixture is hydrogenated. After completion of the hydrogen uptake, the catalyst is removed by filtration, the filtrate is treated with 200 ml. of 10% sodium hydroxide and then extracted with ether. The combined ether extracts are washed neutral with water, dried and evaporated. By distillation, there is obtained pure 4-[3-(p-tert.-amyl-phenyl)-2,3-dimethyl-propyl]-2,6-dimethylmorpholine having a boiling point of 145° C./0.05 Torr.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-[3-(p-tert.-amyl-phenyl)-2,3-dimethyl-2-propenyl]2,6-dimethylmorpholine | C(C)(C)(CC)C1=CC=C(C=C1)C(=C(CN1CC(OC(C1)C)C)C)C | C22H35NO
catalyst | palladium/carbon | [Pd] | Pd
product | 4-[3-(p-tert.-amyl-phenyl)-2,3-dimethyl-propyl]-2,6-dimethylmorpholine | C(C)(C)(CC)C1=CC=C(C=C1)C(C(CN1CC(OC(C1)C)C)C)C | C22H37NO
